US05369110
A solution of 0.450 g of 4-methoxycarbonyl-4-methyl-pentanoic acid N-propyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amide and 2.0 ml of 2N potassium hydroxide solution in 10 ml of methanol is heated under reflux for 6 hours. When cool, the mixture is acidified and concentrated by evaporation. The residue is purified by chromatography on silica gel 60 (40-63 μm) using CH2Cl2 /CH3OH (95:5) as eluant to yield pure 4-carboxy-4-methyl-pentanoic acid N-propyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amide that has an Rf value of 0.40 [CH2Cl2 /CH3OH (4:1)].

reactant | 4-methoxycarbonyl-4-methyl-pentanoic acid N-propyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amide | 0.450 g | C(CC)N(C(CCC(C)(C)C(=O)OC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C25H31N5O3
reactant | potassium hydroxide | 2N, 2.0 ml | [OH-].[K+]
solvent | methanol | 10 ml | CO | CH4O
product | 4-carboxy-4-methyl-pentanoic acid N-propyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amide | C(CC)N(C(CCC(C)(C)C(=O)O)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C24H29N5O3
